US06037367
69(a) 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionaldehyde
To a solution of oxalyl chloride (0.265 mL, 3.0 mmol) in CH2Cl2 (11 mL) at -78° C. under an argon atmosphere was added DMSO (0.43 mL, 6.0 mmol). After 0.03 h, (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-phenylpent4ynol (0.96 g, 2.74 mmol) was added in CH2Cl2 (15 mL). After 0.25 h, triethylamine (2.0 mL, 13.7 mmol) was added. The mixture was allowed to warm to room temperature. Aqueous NH4Cl was added, the mixture was extracted three times with CH2Cl2, the organic extract was washed with 1N HCl, was dried (Na2SO4) and was evaporated. Purification by flash chromatography (silica gel, 25% EtOAc/Hex) provided the title compound as a yellow oil (0.59 g, 62%).MS(EI) m/e 349 [M+H]+.

reactant | oxalyl chloride | 3.0 mmol, 0.265 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 6.0 mmol, 0.43 mL | CS(=O)C | C2H6OS
reactant | (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-phenylpent4ynol | 2.74 mmol, 0.96 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CCO)C#CC1=CC=CC=C1 | C23H26O3
reactant | triethylamine | 13.7 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 11 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionaldehyde | 0.59 g, 62% | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC=O)C#CC1=CC=CC=C1 | C23H24O3
